US04738970
7.02 Grams of 3-methyl-5,6,7,8-tetrahydroquinoline-N-oxide was dissolved in acetic anhydride, and the solution was heated at 90° C. with stirring for 3.5 hours. Acetic anhydride was removed by evaporation under reduced pressure, then an aqueous solution of sodium carbonate was added to make the residue alkaline and was extracted with chloroform. The chloroform layer was washed with an aqueous solution saturated with sodium chloride, then dried with anhydrous magnesium sulfate. The solvent was removed by evaporation, and the residue thus obtained was purified by a silica gel column chromatography (eluent: dichloromethane) to obtain 7.18 g of 3-methyl-8-acetoxy-5,6,7,8-tetrahydroquinoline.

reactant | 3-methyl-5,6,7,8-tetrahydroquinoline-N-oxide | CC=1C=[N+](C=2CCCCC2C1)[O-] | C10H13NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-methyl-8-acetoxy-5,6,7,8-tetrahydroquinoline | 7.18 g | CC=1C=NC=2C(CCCC2C1)OC(C)=O | C12H15NO2
